US04956376
A mixture of methyl 5-(diphenylmethyl)-2H-tetrazole-1-nonanoate (5.00 g, 12 mmol), 5N NaOH solution (7.40 mL, 36 mmol) and methanol (100 mL) was heated to reflux on a steam bath. After 20 minutes, the mixture was concentrated, diluted with water and 2N HCl solution and a white solid collected by filtration. Recrystallization from a mixture of CH2Cl2 and hexanes gave 5-(diphenylmethyl)-2H-tetrazole-1-nonanoic acid (4.40 g, 90%), mp 68°-70° C.

reactant | methyl 5-(diphenylmethyl)-2H-tetrazole-1-nonanoate | 12 mmol, 5.00 g | C1(=CC=CC=C1)C(C1=NNNN1CCCCCCCCC(=O)OC)C1=CC=CC=C1 | C24H32N4O2
reactant | NaOH | 36 mmol, 5N, 7.40 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 5-(diphenylmethyl)-2H-tetrazole-1-nonanoic acid | 4.40 g, 90% | C1(=CC=CC=C1)C(C1=NNNN1CCCCCCCCC(=O)O)C1=CC=CC=C1 | C23H30N4O2
